US05034401
(±)6-(1-Hydroxy-2-[4-(phenoxymethyl)-1-piperidyl]ethyl}-3-methyl-3,4-dihydro-1H-quinazolin-2-one
A mixture of 3 g (12.6 mmoles) 6-chloroacetyl-3methyl-3,4-dihydro-1H-quinazolin-2-one, 2.4 g 4-(phenoxymethyl)piperidine, 1.7 g sodium carbonate, 70 ml ethanol and 15 ml water is heated under reflux for 2 h. The mixture is cooled, 6 g potassium borohydride are added slowly, and the mixture is allowed to return to ambient temperature while stirring. 125 ml water are added, the mixture is stirred for 1 h, then the solid is filtered off, washed with water, and recrystallized from ethanol. 5.1 g of compound are finally isolated.

reactant | 6-chloroacetyl-3methyl-3,4-dihydro-1H-quinazolin-2-one | 12.6 mmoles, 3 g | ClCC(=O)C=1C=C2CN(C(NC2=CC1)=O)C | C11H11ClN2O2
reactant | 4-(phenoxymethyl)piperidine | 2.4 g | O(C1=CC=CC=C1)CC1CCNCC1 | C12H17NO
reactant | sodium carbonate | 1.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium borohydride | 6 g | [BH4-].[K+]
solvent | water | 125 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | (±)6-(1-Hydroxy-2-[4-(phenoxymethyl)-1-piperidyl]ethyl}-3-methyl-3,4-dihydro-1H-quinazolin-2-one | 5.1 g | OC(CN1CCC(CC1)COC1=CC=CC=C1)C=1C=C2CN(C(NC2=CC1)=O)C | C23H29N3O3
